US09315462B2
Compound 13: 3-fluoro-4-(6-hydroxyquinolin-2-yl)benzoic acid
Followed Scheme 3: Starting Materials: 2-chloroquinolin-6-ol and 4-borono-3-fluorobenzoic acid. 1H NMR (CD3OD, 400 MHz): δ 8.31 (d, J=8.4 Hz, 1H), 7.94-7.86 (m, 3H), 7.81-7.74 (m, 2H), 7.35 (dd, J=9.2, 2.8 Hz, 1H), 7.15 (d, J=2.8 Hz, 1H). MS (ESI): m/z 283.6 [M+H]+.

reactant | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | 4-borono-3-fluorobenzoic acid | B(O)(O)C1=C(C=C(C(=O)O)C=C1)F | C7H6BFO4
product | 3-fluoro-4-(6-hydroxyquinolin-2-yl)benzoic acid | FC=1C=C(C(=O)O)C=CC1C1=NC2=CC=C(C=C2C=C1)O | C16H10FNO3
